US04866199
Synthesis of 4-(7'-methylundecyl)benzoic acid 4-n-hexyloxyphenyl ester
The procedure of Example 1 was followed except that the 4-(5'-methyldecyl)benzoic acid and 4-n-octoxyphenol were replaced by 4-(7'-methylundecyl)benzoic acid prepared by reacting 6-methyldecylbromide with 4-methylbenzic acid and 4-n-hexyloxyphenol to thereby give the title compound.

reactant | 4-(5'-methyldecyl)benzoic acid | CC(CCCCC1=CC=C(C(=O)O)C=C1)CCCCC | C18H28O2
reactant | 4-n-octoxyphenol | C(CCCCCCC)OC1=CC=C(C=C1)O | C14H22O2
reactant | 4-(7'-methylundecyl)benzoic acid | CC(CCCCCCC1=CC=C(C(=O)O)C=C1)CCCC | C19H30O2
reactant | 6-methyldecylbromide | CC(CCCCCBr)CCCC | C11H23Br
reactant | 4-methylbenzic acid | CC1=CC=C(C(=O)O)C=C1 | C8H8O2
reactant | 4-n-hexyloxyphenol | C(CCCCC)OC1=CC=C(C=C1)O | C12H18O2
product | 4-(7'-methylundecyl)benzoic acid 4-n-hexyloxyphenyl ester | C(CCCCC)OC1=CC=C(C=C1)OC(C1=CC=C(C=C1)CCCCCCC(CCCC)C)=O | C31H46O3
